vdr_parallel_network - fault test
I1 0 T DC 0.012
R1 T 0 5953.452122
R2 T 0 11963.071643
R3 T 0 12203.565541
.op
.control
run
print v(T)
print @r1[i] @r2[i] @r3[i]
print @i1[i]
.endc
.end
